US04861769
To a suspension of 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer)(761 mg) and triethylamine (1.04 ml) in tetrahydrofuran (3.8 ml) was dropwise added trifluoroacetic anhydride (1.05 ml) at -20° C. The mixture was stirred under ice-cooling for an hour. The mixture was poured into ice-water and adjusted to pH 8 with saturated aqueous solution of sodium bicarbonate. The solution was washed with ethyl acetate, adjusted to pH 2 with 6N hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diisopropyl ether to give 2-cyclopropyloxyimino-2-(2-trifluoroacetamidothiazol-4-yl)acetic acid (syn isomer) (400 mg).

reactant | 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 761 mg | C1(CC1)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S
reactant | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.05 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3.8 ml | O1CCCC1 | C4H8O
product | 2-cyclopropyloxyimino-2-(2-trifluoroacetamidothiazol-4-yl)acetic acid | 400 mg | C1(CC1)ON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C10H8F3N3O4S
